US04210590
In an operation carried out in a manner similar to that described in Example XIV, 105 milligrams of 1-cyanomethyl indole was dissolved in 1.5 milliliters of 1 M BH3.THF under nitrogen. Then, while cooling and stirring in an ice bath, 1.0 milliliter of trifluoroacetic acid was added dropwise to the indole-borane reagent mixture and after completion of the addition, stirring was continued for 1.5 hours while maintaining nitrogen atmosphere to obtain a 1-cyanomethyl-2,3-dihydroindole product in the reaction mixture. The product was recovered by adding first water, then methylene chloride, stirring the mixture (about 15 minutes), making alkaline (pH>9), separating the methylene chloride solution, drying the latter and evaporating the solvent from the dried solution in vacuo.

reactant | 1-cyanomethyl indole | 105 milligrams | C(#N)CN1C=CC2=CC=CC=C12 | C10H8N2
reactant | trifluoroacetic acid | 1.0 milliliter | FC(C(=O)O)(F)F | C2HF3O2
reactant | indole borane | N1C=CC2=CC=CC=C12.B
solvent | BH3.THF | 1 M, 1.5 milliliters | B.C1CCOC1
product | 1-cyanomethyl-2,3-dihydroindole | C(#N)CN1CCC2=CC=CC=C12 | C10H10N2
